US04873338
N-(4-amino-2-hydroxyphenyl)-phthalimide
40 g of Raney-Nickel (washed neutral) were added to 284 g (1 mol) of N-(4-nitro-2-hydroxyphenyl)-phthalimide in 1.75 liters of dimethyl formamide (DMF) and the phthalimide was hydrogenated under a pressure of 15-20 bar at 60° C. The filtrate was precipitated in 3.5 liters of water, suction filtered, washed and dried. Yield: 230 g=90% of theoretical yield.

reactant | N-(4-nitro-2-hydroxyphenyl)-phthalimide | 1 mol, 284 g | [N+](=O)([O-])C1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O)O | C14H8N2O5
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | dimethyl formamide | 1.75 liters | CN(C=O)C | C3H7NO
catalyst | Raney-Nickel | 40 g | [Ni] | Ni
product | N-(4-amino-2-hydroxyphenyl)-phthalimide | NC1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O)O | C14H10N2O3
